US06417200B1
C) N-(3-cyanobenzoyl)-2-[(4-methoxyphenoxy)methyl]aniline
Using a procedure similar to Example 1B except starting from 2-[(4-methoxyphenoxy)methyl]aniline and 3-cyanobenzoyl chloride, the title compound was obtained as a solid (0.50 g, 36%); MS(FD): 359.

reactant | 2-[(4-methoxyphenoxy)methyl]aniline | COC1=CC=C(OCC2=C(N)C=CC=C2)C=C1 | C14H15NO2
reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
product | N-(3-cyanobenzoyl)-2-[(4-methoxyphenoxy)methyl]aniline | C(#N)C=1C=C(C(=O)NC2=C(C=CC=C2)COC2=CC=C(C=C2)OC)C=CC1 | C22H18N2O3
